US08314088B2
3-chloro-5-[(cyclopropylmethyl)(methyl)amino]pyrazine-2-carbaldehyde
Phosphoryl chloride (0.43 mL) was added dropwise to DMF (1 mL) at 0° C. The mixture was stirred for 15 min, and a solution of 6-chloro-N-(cyclopropylmethyl)-N-methylpyrazin-2-amine (0.46 g) in DMF (1 mL) was added dropwise thereto. The mixture was stirred at 50° C. for 16 hr, water (5 mL) was added at 0° C., and the mixture was stirred at room temperature for 1.5 hr. The mixture was extracted with ethyl acetate. The aqueous layer was extracted again with ethyl acetate. The combined organic layer was washed with water and saturated brine, dried over magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography (solvent gradient: 5→20% ethyl acetate/hexane) to give the title compound (0.37 g, 71%) as a pale-yellow oil.

reactant | Phosphoryl chloride | 0.43 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 6-chloro-N-(cyclopropylmethyl)-N-methylpyrazin-2-amine | 0.46 g | ClC1=CN=CC(=N1)N(C)CC1CC1 | C9H12ClN3
reactant | water | 5 mL | O | H2O
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 3-chloro-5-[(cyclopropylmethyl)(methyl)amino]pyrazine-2-carbaldehyde | 0.37 g, 71% | ClC=1C(=NC=C(N1)N(C)CC1CC1)C=O | C10H12ClN3O
